US08633212B2
Step 2. 1,8-bis-bromomethyl-naphthalene
A mixture of naphthalene-1,8-diyldimethanol (1.15 g, 6 mmol) and CH2Cl2 (10 mL) was stirred mechanically and PBr3 (1.2 mL) added dropwise over 20 mins. During the first half of the addition the solution refluxed spontaneously. After stirring overnight at room temperature, water was added dropwise with stirring over 20 min, which again caused refluxing and evolution of much HBr. After stirring for an additional 2 h, water was added and the layers separated and the organic layer washed with water. The organic layer was evaporated in vacuum to give the crude product, which was used directly without purification (1.6 g, 84%). 1H-NMR (CDCl3): 5.30 (s, 4H), 7.44 (m, 2H), 7.62 (m, 2H), 7.87 (m, 2H).

reactant | naphthalene-1,8-diyldimethanol | 6 mmol, 1.15 g | C1(=CC=CC2=CC=CC(=C12)CO)CO | C12H12O2
reactant | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
reactant | PBr3 | 1.2 mL | P(Br)(Br)Br | Br3P
reactant | HBr | Br | BrH
solvent | water | O | H2O
product | 1,8-bis-bromomethyl-naphthalene | BrCC1=CC=CC2=CC=CC(=C12)CBr | C12H10Br2
